US05650428
The procedure described in Example 65 was repeated, except that (RS)-2-(4-chlorobenzenesulfonylamino)-N-(4-(2-methoxycarbonylethyl)phenyl)-3-hydroxypropanamide (882 mg) was reacted with mesyl chloride to obtain (RS)-2-(4-chlorobenzenesulfonylamino)-3-methanesulfonyloxy-N-(4-(2-methoxycarbonylethyl)phenyl)propanamide (246 mg).

reactant | (RS)-2-(4-chlorobenzenesulfonylamino)-N-(4-(2-methoxycarbonylethyl)phenyl)-3-hydroxypropanamide | 882 mg | ClC1=CC=C(C=C1)S(=O)(=O)NC(C(=O)NC1=CC=C(C=C1)CCC(=O)OC)CO | C19H21ClN2O6S
reactant | mesyl chloride | S(=O)(=O)(C)Cl | CH3ClO2S
product | (RS)-2-(4-chlorobenzenesulfonylamino)-3-methanesulfonyloxy-N-(4-(2-methoxycarbonylethyl)phenyl)propanamide | 246 mg | ClC1=CC=C(C=C1)S(=O)(=O)NC(C(=O)NC1=CC=C(C=C1)CCC(=O)OC)COS(=O)(=O)C | C20H23ClN2O8S2
